US05071999
b) Ethyl N-(2-fluoromethylallyl)-N-(2-oxoethyl) -carbamate
25 g (0.1 mol) of ethyl N-(2-fluoromethylallyl) -N-(2,2-dimethoxyethyl)carbamate are heated under reflux for two hours with 5 g of formic acid in 100 ml of water. The mixture is saturated with sodium chloride and extracted with methylene chloride, and the organic phases are washed with sodium hydrogen carbonate solution until neutral. They are dried over magnesium sulphate and concentrated, and the residue is distilled.

reactant | ethyl N-(2-fluoromethylallyl) -N-(2,2-dimethoxyethyl)carbamate | 0.1 mol, 25 g | FCC(CN(C(OCC)=O)CC(OC)OC)=C | C11H20FNO4
reactant | formic acid | 5 g | C(=O)O | CH2O2
reactant | sodium chloride | [Cl-].[Na+]
solvent | water | 100 ml | O | H2O
product | Ethyl N-(2-fluoromethylallyl)-N-(2-oxoethyl) -carbamate | FCC(CN(C(OCC)=O)CC=O)=C | C9H14FNO3
